US07183287B2
Step 1: Preparation of methyl 3-[4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate
Methyl 3-[4-[(2,4-difluorobenzyl)oxy]-2-(methylthio)-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate (87 g, 0.20 mol) was dissolved in N,N-dimethylacetamide (870 mL) and heated to 80° C. Raney Ni was added and slight exotherm and off-gasing were observed. Reaction was complete. Heat and stirring were turned off. Since product had begun to precipitate from the cooled reaction mixture, heat was turned back on to 70° C. and stirring resumed. After redissolving the precipitate, the reaction mixture was allowed to cool for 15 min and then filtered through celite. Rinsed with 50° C. DMA and water, being careful not to let the celite pad go dry. The filtrate was added to 2 L of water and stirred. Product filtered, rinsed with water, and dried in the vacuum oven. When found to still be wet with DMA, slurried with water and stirred 1 h before filtering and redrying. Obtained the product as a white solid (63 g, 81%). 1H NMR (CD3OD/400 MHz) δ8.28 (s, 1H), 8.04 (m, 1H), 7.90 (s, 1H), 7.55 (m, 2H), 6.99 (m, 2H), 5.87 (s, 1H), 5.39 (s, 2H), 3.88 (s, 3H), 2.19 (s, 3H). ESHRMS m/z 387.1195 (M+H calculated for C20H17F2N2O4 requires 387.1151).

reactant | Methyl 3-[4-[(2,4-difluorobenzyl)oxy]-2-(methylthio)-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate | 0.20 mol, 87 g | FC1=C(COC=2N=C(N(C(C2)=O)C=2C=C(C(=O)OC)C=CC2C)SC)C=CC(=C1)F | C21H18F2N2O4S
solvent | N,N-dimethylacetamide | 870 mL | CN(C(C)=O)C | C4H9NO
catalyst | Ni | [Ni] | Ni
product | methyl 3-[4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzoate | 63 g, 81% | FC1=C(COC=2N=CN(C(C2)=O)C=2C=C(C(=O)OC)C=CC2C)C=CC(=C1)F | C20H16F2N2O4
